US06730676B2
b) 4-Amino-5-bromo-6-phenyl-3(2H)-pyridazinone
4-Amino-6-phenyl-3(2H)-pyridazinone (prepared by the method of Example 1a), or according to McKillop et al., Heterocycles, 1989, 29(6), 1077) (4.69 g, 25 mmol) and N-bromosuccinimide (4.50 g, 25.3 mmol), suspended in dry acetonitrile (135 ml), was heated at reflux under a nitrogen atmosphere for 6 hours, then allowed to stand at room temperature for 18 hours. The solid was collected by filtration, washed with ethyl acetate (40 ml) and diethyl ether (40 ml), and dried in vacuo at 60° C., to afford the title compound, 6.25 g (94%), as a colourless solid. 1H NMR (400 MHz, DMSO-d6) δ12.93 (1H, s), 7.43 (5H, m), 6.69 (2H, br s); m/e (ES+) 266/268 [MH]+.

reactant | 4-Amino-6-phenyl-3(2H)-pyridazinone | NC=1C(NN=C(C1)C1=CC=CC=C1)=O | C10H9N3O
reactant | N-bromosuccinimide | 25.3 mmol, 4.50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 135 ml | C(C)#N | C2H3N
product | 4-Amino-5-bromo-6-phenyl-3(2H)-pyridazinone | NC=1C(NN=C(C1Br)C1=CC=CC=C1)=O | C10H8BrN3O
